US09351974B2
Step d: Synthesis of methyl N-(2-chloro-5-nitropyrimidin-4-yl)-N-(4,4-difluorocyclohexyl)-D-alaninate
To a stirred solution of triethylamine trihydrofluoride (2.72 mL, 16.7 mmol) and triethylamine (1.17 mL, 8.41 mmol) in dichloromethane (30 mL) was added Xtalfluor-E (2.9 g, 12.6 mmol) at 0° C. To the solution was then added methyl N-(2-chloro-5-nitropyrimidin-4-yl)-N-(4-oxocyclohexyl)-D-alaninate (3 g, 8.37 mmol) slowly. An additional amount of Xtalfluor-E (2.9 g, 12.6 mmol) was added after 3 h, and resulting mixture was stirred at rt for 9 h. The reaction mixture was quenched with a 5% aqueous NaHCO3 solution. The resulting mixture was extracted with dichloromethane (40 mL×3). The organic phases were combined, dried over Na2SO4, evaporated to give the crude material, which was then purified by silica gel column chromatography to give the desired product (2.2 g). 1HNMR (300 MHz, CDCl3): δ 1.60-1.99 (m, 6H), 2.19-2.24 (m, 3H), 3.16-3.25 (m, 3H), 3.75 (s, 3H), 4.06 (q, J=6.9 Hz, 1H), 8.65 (s, 1H).

reactant | triethylamine trihydrofluoride | 16.7 mmol, 2.72 mL | F.F.F.C(C)N(CC)CC
reactant | triethylamine | 8.41 mmol, 1.17 mL | C(C)N(CC)CC | C6H15N
reactant | Xtalfluor-E | 12.6 mmol, 2.9 g | [B-](F)(F)(F)F.CCN(CC)[S+](F)F
reactant | methyl N-(2-chloro-5-nitropyrimidin-4-yl)-N-(4-oxocyclohexyl)-D-alaninate | 8.37 mmol, 3 g | ClC1=NC=C(C(=N1)N([C@H](C)C(=O)OC)C1CCC(CC1)=O)[N+](=O)[O-] | C14H17ClN4O5
reactant | Xtalfluor-E | 12.6 mmol, 2.9 g | [B-](F)(F)(F)F.CCN(CC)[S+](F)F
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | methyl N-(2-chloro-5-nitropyrimidin-4-yl)-N-(4,4-difluorocyclohexyl)-D-alaninate | 2.2 g | ClC1=NC=C(C(=N1)N([C@H](C)C(=O)OC)C1CCC(CC1)(F)F)[N+](=O)[O-] | C14H17ClF2N4O4
